US08895582B2
To a solution of the crude (2S,4R)-5-(di-tert-butoxyphosphoryloxy)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-4-hydroxypentyl isoquinolin-3-ylcarbamate in MeOH (15 mL) at 0° C. was added conc. HCl (12 N, 16 mL, 192.4 mmol) dropwise. The mixture was stirred for 30 min and concentrated. The residue was dissolved in 50 mL H2O. Aqueous NaOH solution (1 N) was added to adjusted the PH to 3˜4. EtOAc (50 mL) was then added. The mixture was stirred at RT for 1 h. The white solid was then filtered and washed with H2O and EtOAc and dried under high vacuum to give (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl isoquinolin-3-ylcarbamate (2.85 g) as a white powder (4.95 g, 89% for 2 steps). LRMS (M−H+) m/z 567.5

reactant | (2S,4R)-5-(di-tert-butoxyphosphoryloxy)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-4-hydroxypentyl isoquinolin-3-ylcarbamate | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](C[C@H](COP(=O)(OC(C)(C)C)OC(C)(C)C)O)N(C(=O)NCC1=C(C(=CC=C1)F)F)C)=O | C32H43F2N4O8P
reactant | HCl | 192.4 mmol, 12 N, 16 mL | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
product | (2S,4R)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4-hydroxy-5-(phosphonooxy)pentyl isoquinolin-3-ylcarbamate | 2.85 g | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](C[C@H](COP(=O)(O)O)O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H27ClFN4O8P
